US06541659B1
In a dry 50-mL, two-necked, round-bottomed flask, vanadyl acetylacetonate (13.7 mg, 0.05 mmol) in 3 mL of anhydrous CH2Cl2 was placed. To the above solution, acetic anhydride (153.1 mg, 141.5 μL, 1.5 mmol) was slowly added at ambient temperature. After about 10 min, a solution of 2-phenylethanol (122 mg, 119.3 μL, 1.0 mmol) in CH2Cl2 (2 mL) was slowly added to the above dark green solution, and the reaction mixture was stirred for 5 hours. After completion of the reaction as monitored by TLC, the reaction mixture was quenched with cold, saturated aqueous NaHCO3 solution (5 mL). The resulting separated organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. The crude product was purified by column chromatography on silica gel to yield 139.4 mg of 2-phenethyl acetate (85%) as colorless oil. The substrate, reaction time, and yield of this test are summarized in Entry 1 of the following Table 1.

reactant | acetic anhydride | 1.5 mmol, 141.5 μL, 153.1 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-phenylethanol | 1.0 mmol, 119.3 μL, 122 mg | C1(=CC=CC=C1)CCO | C8H10O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | vanadyl acetylacetonate | 0.05 mmol, 13.7 mg | C/C(=C\C(=O)C)/O.C/C(=C\C(=O)C)/O.O=[V]
product | 2-phenethyl acetate | 139.4 mg, 85% | CC(=O)OCCC1=CC=CC=C1 | C10H12O2
